US08497265B2
To a solution of 2-(3-((3-chloropyrazin-2-yl)oxy)azetidin-1-yl)quinoline (see PREPARATION P2.6; 624 mg, 2.0 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (618 mg, 2.0 mmol) and K3PO4 (848 mg, 4.0 mmol) in 1,4-dioxane (20 mL) and H2O (4 mL) was added Pd(dppf)Cl2 (146 mg, 0.2 mmol) then the reaction mixture was stirred at 110° C. under N2 atmosphere overnight. The reaction mixture was filtered through CELITE® and washed with CH2Cl2 (50 mL). The filtrate was concentrated and the crude product was purified by silica gel column to give tert-butyl 4-(3-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrazin-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (600 mg, 1.3 mmol, yield 65%). ESI-MS (M+1): 460 calc. for C26H29N5O3 459.

reactant | 2-(3-((3-chloropyrazin-2-yl)oxy)azetidin-1-yl)quinoline | 2.0 mmol, 624 mg | ClC=1C(=NC=CN1)OC1CN(C1)C1=NC2=CC=CC=C2C=C1 | C16H13ClN4O
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 2.0 mmol, 618 mg | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | K3PO4 | 4.0 mmol, 848 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 4 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.2 mmol, 146 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 4-(3-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrazin-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 1.3 mmol, 600 mg, yield 65% | N1=C(C=CC2=CC=CC=C12)N1CC(C1)OC=1C(=NC=CN1)C1=CCN(CC1)C(=O)OC(C)(C)C | C26H29N5O3
